Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
azithromycin
 
Attending: ___.
 
Chief Complaint:
transfer for neurosurg eval, fall 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with h/o CVA with residual L
facial droop, Afib on apixiban who presented from ___ after 
a
fall with head strike. The patient reports that she just moved
into an assisted living facility here. She attempted to get into
her bed one night and lost her balance because she notes that 
her
bed was too high. She fell to the ground and hit the left side 
of
her face. She reports frequent falls at home. She denies any
preceding symptoms like nausea, diaphoresis, lightheadedness. 
She
initially went to ___ where a CT head showed an area of
hyperdensity in the L superior temporal lobe (1.8cmx1.2cm), c/w
intraparenchymal hemorrhage. The patient endorses a headache and
one episode of emesis. She denies worsened neck pain, chest 
pain,
dyspnea, new numbness or weakness, or any other sx. She was
transferred to ___ for neurosurgery evaluation. 

Her CT c-spine showed concern for C-spine fracture and spine
recommended an MRI. Given pacemaker, patient required clearance
by cardiology before undergoing MRI. She was initially placed in
a c-collar but this was discontinued after MRI did not show any
fracture. 

 
Past Medical History:
1. Hypertension
2. Hyperlipidemia 
3. Atrial fibrillation on apixiban 
4. Stroke in ___ with residual left facial droop and L arm
weakness
5. Breast cancer, s/p left mastectomy
6. h/o melanoma resection 
7. s/p pacemaker 
 
Social History:
___
Family History:
Non-contributory. 

 
Physical Exam:
Admission Physical Exam
VS: 98.0F, 143/87, HR 86, RR 18, 96% on RA 
GENERAL: NAD, pleasantly confused, oriented to self but not to
place, date or situation, when asked where we were she said 
"___", date ___ 
HEENT: AT/NC, anicteric sclera, MMM, erythematous, dry, scaly
rash on face, left sided facial droop 
NECK: supple, no LAD
CV: Irregular rhythm, S1/S2, no murmurs, gallops, or rubs
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
GI: abdomen soft, nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly
EXTREMITIES: no cyanosis, clubbing, or edema
PULSES: 2+ radial pulses bilaterally
NEURO: Alert, moving all 4 extremities with purpose, strength
intact in upper and lower extremities 
DERM: warm and well perfused, no excoriations or lesions, no
rashes

Discharge Physical Exam
___ 0722 Temp: 97.6 PO BP: 141/89 L Lying HR: 85 RR: 18 O2
sat: 97% O2 delivery: Ra 
GENERAL: NAD, pleasantly confused, A&Ox3 
HEENT: AT/NC, anicteric sclera, MMM, erythematous, dry, scaly
rash on face, left sided facial droop 
NECK: supple, no LAD
CV: Irregular rhythm, S1/S2, no murmurs, gallops, or rubs
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
GI: abdomen soft, nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly
EXTREMITIES: no cyanosis, clubbing, or edema
PULSES: 2+ radial pulses bilaterally
NEURO: Alert, moving all 4 extremities with purpose, strength
intact in upper and lower extremities 
DERM: warm and well perfused, no excoriations or lesions, no
rashes

 
Pertinent Results:
Admission Labs

___ 10:21PM BLOOD WBC-10.5* RBC-3.70* Hgb-12.1 Hct-36.6 
MCV-99* MCH-32.7* MCHC-33.1 RDW-12.8 RDWSD-46.3 Plt ___
___ 10:21PM BLOOD Neuts-70.8 Lymphs-16.6* Monos-9.2 Eos-2.8 
Baso-0.3 Im ___ AbsNeut-7.43* AbsLymp-1.74 AbsMono-0.96* 
AbsEos-0.29 AbsBaso-0.03
___ 10:21PM BLOOD ___ PTT-25.3 ___
___ 10:21PM BLOOD Glucose-98 UreaN-14 Creat-0.7 Na-142 
K-4.2 Cl-104 HCO3-24 AnGap-14
___ 06:20AM BLOOD Calcium-9.1 Phos-4.8* Mg-1.5*
___ 06:45AM URINE Color-Yellow Appear-Clear Sp ___
___ 06:45AM URINE Blood-NEG Nitrite-NEG Protein-TR* 
Glucose-NEG Ketone-10* Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG
___ 06:45AM URINE RBC-0 WBC-1 Bacteri-NONE Yeast-NONE Epi-0

___ 6:45 am URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH. 

Pertinent Findings

___ 05:53AM BLOOD proBNP-2801*
___ 07:34AM BLOOD VitB12-429 Folate-9
___ 07:34AM BLOOD TSH-15*
___ 05:53AM BLOOD T4-4.7

___ Cardiovascular Transthoracic Echo Report 
CONCLUSION:
The left atrial volume index is SEVERELY increased. The right 
atrium is mildly enlarged. There is no
evidence for an atrial septal defect by 2D/color Doppler. The 
estimated right atrial pressure is ___
mmHg. There is mild symmetric left ventricular hypertrophy with 
a normal cavity size. There is normal
regional and global left ventricular systolic function. There is 
beat-to-beat variability in the left
ventricular contractility due to the irregular rhythm. The 
visually estimated left ventricular ejection
fraction is 55-60%. There is no resting left ventricular outflow 
tract gradient. Normal right ventricular
cavity size with normal free wall motion. The aortic sinus 
diameter is normal for gender with normal
ascending aorta diameter for gender. The aortic arch diameter is 
normal. The aortic valve leaflets (3) are
mildly thickened. There is no aortic valve stenosis. There is 
trace aortic regurgitation. The mitral valve
leaflets are mildly thickened with no mitral valve prolapse. 
There is moderate mitral annular
calcification. There is moderate [2+] mitral regurgitation. The 
tricuspid valve leaflets appear structurally
normal. There is trivial tricuspid regurgitation. There is mild 
pulmonary artery systolic hypertension.
There is no pericardial effusion.
IMPRESSION: Mild symmetric left ventricular hypertrophy with 
normal cavity size and regional/
global biventricular systolic function. Moderate mitral 
regurgitation. Mild pulmonary hypertension.

Discharge Labs
___ 06:00AM BLOOD WBC-8.9 RBC-3.50* Hgb-11.3 Hct-35.2 
MCV-101* MCH-32.3* MCHC-32.1 RDW-12.9 RDWSD-47.8* Plt ___
___ 06:00AM BLOOD Glucose-102* UreaN-11 Creat-0.7 Na-145 
K-4.5 Cl-106 HCO3-26 AnGap-13
___ 06:00AM BLOOD Calcium-9.0 Phos-4.8* Mg-1.___ with h/o CVA with residual L facial droop, Afib on apixiban 
who presented from ___ after a fall with head strike found 
to have subacute to chronic L temporal IPH, admitted for 
inpatient monitoring. Hospital course complicated by atrial 
fibrillation with rapid ventricular rates.

ACUTE ISSUES ADDRESSED:
===============
#Falls. Patient noted frequent falls at home that were mechnical 
nature per family with her most recent i/s/o of high bed. 
Telemetry did not show arrhythmia as cause of falls. ___ and OT 
recommended f/u ___ evaluation and treatment after discharge.

#Encephalopathy. The patient had waxing and waning orientation 
that was appeared to be chronic per family. Exam non-focal 
besides known left sided facial droop. No localizing symptoms or 
lab to suggest infection. Delirium precautions performed.

#IPH: The patient was found to have subacute to chronic L 
temporal IPH as well as some L temporal and biocciptial SAH. 
Neurology consulted to determine anticoagulation plan and felt 
that given that
hemorrhage appears late subacute to chronic on imaging and the 
infarct isn't a very large area and is subacute, the 
risk/benefit profile favored continuing anticoagulation at this 
time with discontinuation of ASA. 

#Atrial fibrillation with RVR: the patient had episodes of afib 
w/ rvr while in hospital for desaturation on ambulation. 
Negative CXR. Rate was better controlled with increase in 
metprolol and on home dose of diltiazem. Anticoagulation with 
apixiban as above.

#Elevated TSH, normal T4: the patient had elevated TSH with 
intact thyroid function with normal T4. Would recommend f/u 
retesting in ___ weeks.

CHRONIC ISSUES:
===============
#Constipation: Continued on docusate 

#HLD: Continued home atorvastatin and ezetimibe 

#Home meds: continued gabapentin, OXcarbazepine and duloxetine

TRANSITIONAL ISSUES:
=================
[] Falls: ensure home safety evaluation and improvement of home 
environment
[] Delirium: gabapentin was held I/s/o delirium with concerns 
that gabapentin can cause confusion in older patients. Please 
restart if medically appropriate as needed. 
[] Afib w/ RVR: check heart rates with higher dose of 
metoprolol.
[] High TSH, normal T4: 
 [] Recheck levels in ___ weeks after discharge
 [] Free T4 pending at discharge. F/u on level after discharge.

Code status: full (presumed)
Name of health care proxy: ___ 
___: Daughter 
Cell phone: ___ 

Greater than 30 minutes spent on complex discharge

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Apixaban 5 mg PO BID 
2. Aspirin 81 mg PO DAILY 
3. Atorvastatin 40 mg PO QPM 
4. Ezetimibe 10 mg PO DAILY 
5. OXcarbazepine 150 mg PO BID 
6. Gabapentin 600 mg PO BID 
7. Metoprolol Tartrate 25 mg PO BID 
8. DULoxetine 60 mg PO DAILY 
9. Docusate Sodium 100 mg PO BID 
10. Diltiazem Extended-Release 120 mg PO DAILY 

 
Discharge Medications:
1.  Metoprolol Succinate XL 100 mg PO DAILY  
2.  Apixaban 5 mg PO BID  
3.  Atorvastatin 40 mg PO QPM  
4.  Diltiazem Extended-Release 120 mg PO DAILY  
5.  Docusate Sodium 100 mg PO BID  
6.  DULoxetine 60 mg PO DAILY  
7.  Ezetimibe 10 mg PO DAILY  
8.  OXcarbazepine 150 mg PO BID  
9. HELD- Gabapentin 600 mg PO BID  This medication was held. Do 
not restart Gabapentin until you are told to do so by your 
physician.

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSES
================
Intraparencyhemal hemorrhage
Falls
Atrial fibrillation with rapid ventricular rates

SECONDARY DIAGNOSES
==================
Dementia

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,  

It was a pleasure caring for you at ___.  

WHY WAS I IN THE HOSPITAL?  
- You were in the hospital because you fell.

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- You had a imaging of your head that showed old blood in your 
brain. 
- You were restarted on your blood thinner but your aspirin was 
held.
- You were seen by our physical and occupational therapist who 
recommended you work with physical and occupational therapist to 
prevent further falls. 
- You had fast heart rates in the hospital and we increased your 
medication to treat this.  

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
- Continue to take all your medicines and keep your 
appointments.  

We wish you the best!  

Sincerely,  
Your ___ Team  
 
Followup Instructions:
___